US07517875B2
After dissolving 4-amino-2-{[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amino}-benzimidazole-1-carboxylic acid tert-butyl ester (10 mg, 0.02 mmol) in acetonitrile (1 ml), ethyl isocyanate (0.08 mmol) was added and the mixture was stirred at room temperature overnight. After adding a 4N hydrogen chloride-1,4-dioxane solution (1 ml) to the reaction mixture, it was stirred at 50° C. for 1 hour and then the reaction mixture was passed through SCX (Bond Elute SCX500MG). The SCX was washed with methanol and elution was performed with a 2N ammonia-methanol solution. The solvent was distilled off under reduced pressure to obtain 1-(2-{[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazol-4-yl)-3-ethyl-urea. The compound was identified by LC-MS.

reactant | 4-amino-2-{[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amino}-benzimidazole-1-carboxylic acid tert-butyl ester | 0.02 mmol, 10 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2N)NCC2CCN(CC2)CC2=CC(=C(C=C2)Cl)Cl | C25H31Cl2N5O2
reactant | ethyl isocyanate | 0.08 mmol | C(C)N=C=O | C3H5NO
reactant | hydrogen chloride-1,4-dioxane | 4N, 1 ml | O1CCOCC1.Cl
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-(2-{[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazol-4-yl)-3-ethyl-urea | ClC=1C=C(CN2CCC(CC2)CNC2=NC3=C(N2)C=CC=C3NC(=O)NCC)C=CC1Cl | C23H28Cl2N6O
